* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                          *
*                                                       *
* Cell Name  : comparator_preamp                        *
* Netlisted  : Wed Jun 17 01:56:10 2026                 *
* PVS Version: 16.10-p006 Thu Jul 27 18:05:02 PDT 2017 *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 R(res_generic_m1) met1_res met1(P) met1(N)
*.DEVTMPLT 1 R(res_generic_m2) met2_res met2(P) met2(N)
*.DEVTMPLT 2 R(res_generic_m3) met3_res met3(P) met3(N)
*.DEVTMPLT 3 R(res_generic_m4) met4_res met4(P) met4(N)
*.DEVTMPLT 4 R(res_generic_m5) met5_res met5(P) met5(N)
*.DEVTMPLT 5 D(diode_pd2nw_05v5) diode_pd2nw_05v5_rec psd(PLUS) nwell(MINUS)
*.DEVTMPLT 6 D(diode_pd2nw_05v5_hvt) diode_pd2nw_05v5_hvt_rec psd(PLUS) nwell(MINUS)
*.DEVTMPLT 7 D(diode_pd2nw_05v5_lvt) diode_pd2nw_05v5_lvt_rec psd(PLUS) nwell(MINUS)
*.DEVTMPLT 8 D(diode_pd2nw_11v0) diode_pd2nw_11v0_rec psd(PLUS) nwell(MINUS)
*.DEVTMPLT 9 D(diode_pw2nd_05v5) diode_pw2nd_05v5_rec pwell_all(PLUS) nsd(MINUS)
*.DEVTMPLT 10 D(diode_pw2nd_05v5_lvt) diode_pw2nd_05v5_lvt_rec pwell_all(PLUS) nsd(MINUS)
*.DEVTMPLT 11 D(diode_pw2nd_05v5_nvt) diode_pw2nd_05v5_nvt_rec pwell_all(PLUS) nsd(MINUS)
*.DEVTMPLT 12 D(diode_pw2nd_11v0) diode_pw2nd_11v0_rec pwell_all(PLUS) nsd(MINUS)
*.DEVTMPLT 0 R(RES_GENERIC_ND) diff_res np_term(P) np_term(N)
*.DEVTMPLT 1 R(RES_GENERIC_PD) diff_res pp_term(P) pp_term(N)
*.DEVTMPLT 15 MN(nfet_01v8) nfet_01v8_rec nSourceDrain(D) nfet(G) nSourceDrain(S) pwell_all(B)
*.DEVTMPLT 16 MP(pfet_01v8) pfet_01v8_rec pSourceDrain(D) pfet(G) pSourceDrain(S) nwell(B)
*.DEVTMPLT 17 MP(pfet_01v8_lvt) lvtpfet_01v8_rec pSourceDrain(D) lvtpfet(G) pSourceDrain(S) nwell(B)
*.DEVTMPLT 18 MN(nfet_01v8_lvt) lvtnfet_01v8_rec nSourceDrain(D) lvtnfet(G) nSourceDrain(S) pwell_all(B)
*.DEVTMPLT 19 MP(pfet_01v8_hvt) hvtpfet_01v8_rec pSourceDrain(D) hvtpfet(G) pSourceDrain(S) nwell(B)
*.DEVTMPLT 20 MN(nfet_03v3_nvt) HV_ngate_3v3 HV_source_drain(D) HV_FET_gate(G) HV_source_drain(S) pwell_all(B)
*.DEVTMPLT 21 MN(nfet_05v0_nvt) HV_ngate_5v0 HV_source_drain(D) HV_FET_gate(G) HV_source_drain(S) pwell_all(B)
*.DEVTMPLT 22 MN(nfet_g5v0d10v5) HV_ngate_5v10v HV_source_drain(D) HV_FET_gate(G) HV_source_drain(S) pwell_all(B)
*.DEVTMPLT 23 MP(pfet_g5v0d10v5) HV_pgate_5v10v HV_source_drain(D) HV_FET_gate(G) HV_source_drain(S) nwell(B)
*.DEVTMPLT 24 MN(nfet_20v0) nfet_v20_rec nfet_v20_drain(D) nfet_v20_gate(G) nfet_v20_source(S) pwell_all(B)
*.DEVTMPLT 25 MN(nfet_20v0_zvt) nfet_v20_zvt_rec nfet_v20_drain(D) nfet_v20_gate(G) nfet_v20_source(S) pwell_all(B)
*.DEVTMPLT 26 MP(pfet_20v0) pfet_v20_rec pfet_v20_drain(D) pfet_v20_gate(G) pfet_v20_source(S) nwell(B)
*.DEVTMPLT 27 Q(npn_05v5) npn_rec npnC(C) npnB(B) npnE(E) pwell_all(BN)
*.DEVTMPLT 28 Q(npn_11v0) hvnpn_rec npnC(C) npnB(B) hvnpnE(E) pwell_all(BN)
*.DEVTMPLT 29 Q(pnp_05v5) pnp_rec pnpC(C) pnpB(B) pnpE(E) pwell_all(BN)
*.DEVTMPLT 30 R(res_high_po_0p35) res_high_po_0p35_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 31 R(res_high_po_0p69) res_high_po_0p69_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 32 R(res_high_po_1p41) res_high_po_1p41_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 33 R(res_high_po_2p85) res_high_po_2p85_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 34 R(res_high_po_5p73) res_high_po_5p73_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 35 R(res_xhigh_po_0p35) res_xhigh_po_0p35_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 36 R(res_xhigh_po_0p69) res_xhigh_po_0p69_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 37 R(res_xhigh_po_1p41) res_xhigh_po_1p41_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 38 R(res_xhigh_po_2p85) res_xhigh_po_2p85_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 39 R(res_xhigh_po_5p73) res_xhigh_po_5p73_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 40 C(cap_mim_m3__base) capacitor top_plate(PLUS) bottom_plate(MINUS)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8_lvt$$13                           *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8_lvt$$13 1 2 3
** N=14 EP=3 FDC=1
M0 3 1 2 2 pfet_01v8_lvt L=1e-06 W=1.5e-06 $X=0 $Y=0 $dt=17
.ends pfet_01v8_lvt$$13

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8$$14                               *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8$$14 1 2 3 4
** N=10 EP=4 FDC=1
M0 3 1 2 4 nfet_01v8 L=1e-06 W=1e-06 $X=0 $Y=0 $dt=15
.ends nfet_01v8$$14

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8$$15                               *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8$$15 1 2 3 4
** N=6 EP=4 FDC=1
M0 3 1 2 4 nfet_01v8 L=1.5e-07 W=4.2e-07 $X=0 $Y=0 $dt=15
.ends nfet_01v8$$15

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8$$16                               *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8$$16 1
** N=9 EP=1 FDC=1
M0 1 1 1 1 nfet_01v8 L=5e-07 W=1.5e-06 $X=0 $Y=0 $dt=15
.ends nfet_01v8$$16

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8_lvt$$17                           *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8_lvt$$17 1
** N=10 EP=1 FDC=1
M0 1 1 1 1 pfet_01v8_lvt L=5e-07 W=1.5e-06 $X=0 $Y=0 $dt=17
.ends pfet_01v8_lvt$$17

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8$$18                               *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8$$18 1 2 3 5
** N=7 EP=4 FDC=1
M0 3 1 2 5 pfet_01v8 L=1.5e-07 W=5.5e-07 $X=0 $Y=0 $dt=16
.ends pfet_01v8$$18

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8$$19                               *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8$$19 1 2 3 4
** N=12 EP=4 FDC=1
M0 3 1 2 4 nfet_01v8 L=1e-06 W=1.5e-06 $X=0 $Y=0 $dt=15
.ends nfet_01v8$$19

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8$$20                               *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8$$20 1 2 3 4
** N=14 EP=4 FDC=1
M0 3 1 2 4 nfet_01v8 L=1e-06 W=1.5e-06 $X=0 $Y=0 $dt=15
.ends nfet_01v8$$20

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8$$21                               *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8$$21 1
** N=5 EP=1 FDC=1
M0 1 1 1 1 nfet_01v8 L=1e-06 W=7.5e-07 $X=0 $Y=0 $dt=15
.ends nfet_01v8$$21

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8_lvt$$22                           *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8_lvt$$22 1 2 3
** N=12 EP=3 FDC=1
M0 3 1 2 2 pfet_01v8_lvt L=1e-06 W=1.5e-06 $X=0 $Y=0 $dt=17
.ends pfet_01v8_lvt$$22

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8_lvt$$23                           *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8_lvt$$23 1
** N=6 EP=1 FDC=1
M0 1 1 1 1 pfet_01v8_lvt L=5e-07 W=7.5e-07 $X=0 $Y=0 $dt=17
.ends pfet_01v8_lvt$$23

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8$$24                               *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8$$24 1
** N=5 EP=1 FDC=1
M0 1 1 1 1 nfet_01v8 L=5e-07 W=7.5e-07 $X=0 $Y=0 $dt=15
.ends nfet_01v8$$24

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8$$25                               *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8$$25 1 2 3 4
** N=8 EP=4 FDC=1
M0 3 1 2 4 nfet_01v8 L=1e-06 W=1e-06 $X=0 $Y=0 $dt=15
.ends nfet_01v8$$25

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8$$26                               *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8$$26 1 2 3
** N=7 EP=3 FDC=1
M0 3 1 2 2 nfet_01v8 L=1e-06 W=1e-06 $X=0 $Y=0 $dt=15
.ends nfet_01v8$$26

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8_lvt$$27                           *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8_lvt$$27 1
** N=6 EP=1 FDC=1
M0 1 1 1 1 pfet_01v8_lvt L=1e-06 W=7.5e-07 $X=0 $Y=0 $dt=17
.ends pfet_01v8_lvt$$27

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8$$28                               *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8$$28 1
** N=5 EP=1 FDC=1
M0 1 1 1 1 nfet_01v8 L=5e-07 W=1e-06 $X=0 $Y=0 $dt=15
.ends nfet_01v8$$28

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: comparator_preamp                           *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt comparator_preamp EN EN_N IBIAS OUT_N OUT_P VDD VN VP VSS
** N=576 EP=9 FDC=84
X103 OUT_P VDD 8 pfet_01v8_lvt$$13 $T=11760 10210 0 0 $X=11315 $Y=10030
X104 OUT_N VDD 8 pfet_01v8_lvt$$13 $T=15030 10210 1 180 $X=13585 $Y=10030
X105 EN 1 IBIAS VSS nfet_01v8$$14 $T=29440 2360 1 180 $X=28035 $Y=2210
X106 EN_N OUT_N OUT_P VSS nfet_01v8$$15 $T=23355 17370 0 0 $X=22950 $Y=17220
X107 VSS nfet_01v8$$16 $T=970 9340 1 0 $X=565 $Y=7690
X108 VSS nfet_01v8$$16 $T=970 11710 1 0 $X=565 $Y=10060
X109 VSS nfet_01v8$$16 $T=7040 9340 1 0 $X=6635 $Y=7690
X110 VSS nfet_01v8$$16 $T=7040 11710 1 0 $X=6635 $Y=10060
X111 VDD pfet_01v8_lvt$$17 $T=1065 16190 0 0 $X=620 $Y=16010
X112 VDD pfet_01v8_lvt$$17 $T=1065 18430 0 0 $X=620 $Y=18250
X113 VDD pfet_01v8_lvt$$17 $T=9990 7840 0 0 $X=9545 $Y=7660
X114 VDD pfet_01v8_lvt$$17 $T=9990 10210 0 0 $X=9545 $Y=10030
X115 VDD pfet_01v8_lvt$$17 $T=16300 7840 0 0 $X=15855 $Y=7660
X116 VDD pfet_01v8_lvt$$17 $T=16300 10210 0 0 $X=15855 $Y=10030
X117 VDD pfet_01v8_lvt$$17 $T=20995 16190 0 0 $X=20550 $Y=16010
X118 VDD pfet_01v8_lvt$$17 $T=20995 18430 0 0 $X=20550 $Y=18250
X119 EN OUT_P OUT_N VDD pfet_01v8$$18 $T=23505 18310 1 180 $X=22910 $Y=18130
X120 VN 8 OUT_N VSS nfet_01v8$$19 $T=3660 11710 0 180 $X=2255 $Y=10060
X121 VP 8 OUT_P VSS nfet_01v8$$19 $T=4850 11710 1 0 $X=4445 $Y=10060
X122 VP 8 OUT_P VSS nfet_01v8$$20 $T=3660 9340 0 180 $X=2255 $Y=7330
X123 VN 8 OUT_N VSS nfet_01v8$$20 $T=4850 9340 1 0 $X=4445 $Y=7330
X124 VSS nfet_01v8$$21 $T=2660 6970 1 0 $X=2255 $Y=6070
X125 VSS nfet_01v8$$21 $T=2660 13330 1 0 $X=2255 $Y=12430
X126 VSS nfet_01v8$$21 $T=4850 6970 1 0 $X=4445 $Y=6070
X127 VSS nfet_01v8$$21 $T=4850 13330 1 0 $X=4445 $Y=12430
X128 3 VDD OUT_P pfet_01v8_lvt$$22 $T=2835 16190 0 0 $X=2390 $Y=16010
X129 3 VDD OUT_N pfet_01v8_lvt$$22 $T=2835 18430 0 0 $X=2390 $Y=18250
X130 3 VDD OUT_N pfet_01v8_lvt$$22 $T=5105 16190 0 0 $X=4660 $Y=16010
X131 3 VDD OUT_P pfet_01v8_lvt$$22 $T=5105 18430 0 0 $X=4660 $Y=18250
X132 3 VDD OUT_P pfet_01v8_lvt$$22 $T=7375 16190 0 0 $X=6930 $Y=16010
X133 3 VDD OUT_N pfet_01v8_lvt$$22 $T=7375 18430 0 0 $X=6930 $Y=18250
X134 3 VDD 3 pfet_01v8_lvt$$22 $T=9645 16190 0 0 $X=9200 $Y=16010
X135 3 VDD 3 pfet_01v8_lvt$$22 $T=9645 18430 0 0 $X=9200 $Y=18250
X136 OUT_N VDD 8 pfet_01v8_lvt$$22 $T=11760 7840 0 0 $X=11315 $Y=7660
X137 3 VDD 3 pfet_01v8_lvt$$22 $T=12915 16190 1 180 $X=11470 $Y=16010
X138 3 VDD 3 pfet_01v8_lvt$$22 $T=12915 18430 1 180 $X=11470 $Y=18250
X139 OUT_P VDD 8 pfet_01v8_lvt$$22 $T=15030 7840 1 180 $X=13585 $Y=7660
X140 3 VDD OUT_N pfet_01v8_lvt$$22 $T=15185 16190 1 180 $X=13740 $Y=16010
X141 3 VDD OUT_P pfet_01v8_lvt$$22 $T=15185 18430 1 180 $X=13740 $Y=18250
X142 3 VDD OUT_P pfet_01v8_lvt$$22 $T=17455 16190 1 180 $X=16010 $Y=16010
X143 3 VDD OUT_N pfet_01v8_lvt$$22 $T=17455 18430 1 180 $X=16010 $Y=18250
X144 3 VDD OUT_N pfet_01v8_lvt$$22 $T=19725 16190 1 180 $X=18280 $Y=16010
X145 3 VDD OUT_P pfet_01v8_lvt$$22 $T=19725 18430 1 180 $X=18280 $Y=18250
X146 VDD pfet_01v8_lvt$$23 $T=9990 6220 0 0 $X=9545 $Y=6040
X147 VDD pfet_01v8_lvt$$23 $T=9990 12580 0 0 $X=9545 $Y=12400
X148 VDD pfet_01v8_lvt$$23 $T=16300 6220 0 0 $X=15855 $Y=6040
X149 VDD pfet_01v8_lvt$$23 $T=16300 12580 0 0 $X=15855 $Y=12400
X150 VSS nfet_01v8$$24 $T=970 6970 1 0 $X=565 $Y=6070
X151 VSS nfet_01v8$$24 $T=970 13330 1 0 $X=565 $Y=12430
X152 VSS nfet_01v8$$24 $T=7040 6970 1 0 $X=6635 $Y=6070
X153 VSS nfet_01v8$$24 $T=7040 13330 1 0 $X=6635 $Y=12430
X154 1 VSS 8 VSS nfet_01v8$$25 $T=2660 715 0 0 $X=2255 $Y=565
X155 1 VSS 8 VSS nfet_01v8$$25 $T=2660 2360 0 0 $X=2255 $Y=2210
X156 1 VSS 3 VSS nfet_01v8$$25 $T=5850 715 1 180 $X=4445 $Y=565
X157 1 VSS 3 VSS nfet_01v8$$25 $T=5850 2355 1 180 $X=4445 $Y=2205
X158 1 VSS 8 VSS nfet_01v8$$25 $T=7040 715 0 0 $X=6635 $Y=565
X159 1 VSS 8 VSS nfet_01v8$$25 $T=7040 2355 0 0 $X=6635 $Y=2205
X160 1 VSS 1 VSS nfet_01v8$$25 $T=10230 715 1 180 $X=8825 $Y=565
X161 1 VSS 1 VSS nfet_01v8$$25 $T=10230 2355 1 180 $X=8825 $Y=2205
X162 1 VSS 8 VSS nfet_01v8$$25 $T=11420 715 0 0 $X=11015 $Y=565
X163 1 VSS 8 VSS nfet_01v8$$25 $T=11420 2355 0 0 $X=11015 $Y=2205
X164 1 VSS 8 VSS nfet_01v8$$25 $T=14610 715 1 180 $X=13205 $Y=565
X165 1 VSS 8 VSS nfet_01v8$$25 $T=13610 2355 0 0 $X=13205 $Y=2205
X166 1 VSS 8 VSS nfet_01v8$$25 $T=16800 715 1 180 $X=15395 $Y=565
X167 1 VSS 8 VSS nfet_01v8$$25 $T=16800 2355 1 180 $X=15395 $Y=2205
X168 1 VSS 1 VSS nfet_01v8$$25 $T=17990 715 0 0 $X=17585 $Y=565
X169 1 VSS 1 VSS nfet_01v8$$25 $T=17990 2355 0 0 $X=17585 $Y=2205
X170 1 VSS 8 VSS nfet_01v8$$25 $T=21180 715 1 180 $X=19775 $Y=565
X171 1 VSS 8 VSS nfet_01v8$$25 $T=21180 2355 1 180 $X=19775 $Y=2205
X172 1 VSS 8 VSS nfet_01v8$$25 $T=25560 715 1 180 $X=24155 $Y=565
X173 1 VSS 8 VSS nfet_01v8$$25 $T=25560 2355 1 180 $X=24155 $Y=2205
X174 EN 1 IBIAS VSS nfet_01v8$$25 $T=29440 715 1 180 $X=28035 $Y=565
X175 EN 1 IBIAS VSS nfet_01v8$$25 $T=30630 715 0 0 $X=30225 $Y=565
X176 EN_N VSS 1 VSS nfet_01v8$$25 $T=31630 2360 1 180 $X=30225 $Y=2210
X177 1 VSS 3 nfet_01v8$$26 $T=22370 715 0 0 $X=21965 $Y=565
X178 1 VSS 3 nfet_01v8$$26 $T=22370 2355 0 0 $X=21965 $Y=2205
X179 VDD pfet_01v8_lvt$$27 $T=11760 6220 0 0 $X=11315 $Y=6040
X180 VDD pfet_01v8_lvt$$27 $T=11760 12580 0 0 $X=11315 $Y=12400
X181 VDD pfet_01v8_lvt$$27 $T=14030 6220 0 0 $X=13585 $Y=6040
X182 VDD pfet_01v8_lvt$$27 $T=14030 12580 0 0 $X=13585 $Y=12400
X183 VSS nfet_01v8$$28 $T=970 715 0 0 $X=565 $Y=565
X184 VSS nfet_01v8$$28 $T=970 2360 0 0 $X=565 $Y=2210
X185 VSS nfet_01v8$$28 $T=26750 715 0 0 $X=26345 $Y=565
X186 VSS nfet_01v8$$28 $T=26750 2360 0 0 $X=26345 $Y=2210
.ends comparator_preamp
